2107-03-30 10:02:00 Physician Attending Progress Note
Chief Complaint: respiratory failure and shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Please see Dr.[**Name (NI) 360**] blue note (paper) in chart for details of
   presentation, PMH, etc.
   24 Hour Events:
   Admitted to ICU.  Seen by heme/onc
   Fever to 104
   Lung-protective ventilatory strategy
   Received rasburicase
 PRESEP CATHETER - START [**2107-3-30**] 12:09 AM
 ARTERIAL LINE - START [**2107-3-30**] 12:10 AM
 SPUTUM CULTURE - At [**2107-3-30**] 01:54 AM
 URINE CULTURE - At [**2107-3-30**] 01:54 AM
 BLOOD CULTURED - At [**2107-3-30**] 04:42 AM
 BLOOD CULTURED - At [**2107-3-30**] 05:00 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2107-3-30**] 02:20 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Phenylephrine - 4 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Tylenol, rasburicase x 1, bicarbonate infusion, SQH, vancomycin,
   ceftaz, H2B, SQI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-3-30**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.1
C (104.2
   Tcurrent: 38.4
C (101.2
   HR: 123 (119 - 129) bpm
   BP: 108/51(69) {99/47(65) - 113/53(72)} mmHg
   RR: 27 (19 - 27) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
   CVP: 16 (14 - 357)mmHg
   Total In:
                                                                      6 mL
                                                                  7,918 mL
   PO:
   TF:
   IVF:
                                                                      6 mL
                                                                  1,888 mL
   Blood products:
   Total out:
                                                                    630 mL
                                                                    440 mL
   Urine:
                                                                    130 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -624 mL
                                                                  7,478 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: Hemodynamic Instability
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.33/37/87.[**Numeric Identifier 181**]/19/-5
   Ve: 15.8 L/min
   PaO2 / FiO2: 147
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, palpable organomegaly
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: No spontaneous
   movement, Sedated, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   27 K/uL
   279 mg/dL
   3.3 mg/dL
   19 mEq/L
   5.3 mEq/L
   104 mg/dL
   106 mEq/L
   139 mEq/L
   28.9 %
   92.9 K/uL
        [image002.jpg]
                             [**2107-3-29**]  09:08 PM
                             [**2107-3-30**]  01:36 AM
                             [**2107-3-30**]  02:05 AM
                             [**2107-3-30**]  04:56 AM
                             [**2107-3-30**]  05:30 AM
   WBC
   95.4
   92.9
   Hct
   29.9
   28.9
   Plt
   28
   27
   Cr
   3.2
   3.3
   TropT
   0.43
   TCO2
   21
   20
   21
   Glucose
   189
   279
   Other labs: PT / PTT / INR:23.0/50.0/2.2, CK / CKMB /
   Troponin-T:82/16/0.43, ALT / AST:79/87, Alk Phos / T Bili:185/1.2,
   Differential-Neuts:22.0 %, Band:4.0 %, Lymph:5.0 %, Mono:14.0 %,
   Eos:0.0 %, Fibrinogen:352 mg/dL, Lactic Acid:2.3 mmol/L, LDH:1379 IU/L,
   Ca++:7.6 mg/dL, Mg++:2.7 mg/dL, PO4:6.6 mg/dL
   Fluid analysis / Other labs: 53% blasts in peripheral smear
   Assessment and Plan
   72 y/o man with secondary AML now presents with shock, respiratory
   failure, acute renal failure, and likely tumor lysis syndrome following
   trasfusions at [**Hospital1 358**].
 ACUTE RESPIRATORY FAILURE
   - for now, goal Vt 6cc/kg PWB/breath
   - get formal mechanics -- PIPs suggest good compliance at present
   - differential includes [**Doctor Last Name 11**], TRALI, pneumonia (less likely), and
   leukostasis
   - TRALI and acute diastolic CHF are probably most likely
   - check mechanics, plateau, etc.  Consider RSBI and SBT if reasonable.
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   - heme/onc consult appreciated
   - no acute therapy indicated at this time
 SHOCK
   - cover empirically for pneumonia
   - goal-directed therapy, with CVP goal ~12 today
 FEVER
   - follow cultures
   - if further LFT elevation, RUQ ultrasound
 NSTEMI
   - most likely related to demand or leukostasis
   - echo
   - hemodynamic management. No aspirin given thrombocytopenia, no beta
   blocker given shock.
 TUMOR LYSIS SYNDROME
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   - heme/onc consult
   - renal consult
   - alkalinization, rasburicase
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   Presep Catheter - [**2107-3-30**] 12:09 AM
   18 Gauge - [**2107-3-30**] 12:09 AM
   20 Gauge - [**2107-3-30**] 12:09 AM
   Arterial Line - [**2107-3-30**] 12:10 AM
   Prophylaxis:
   DVT: Boots(no SQH heparin given thrombocytopenia)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   We will discuss all issues with wife, in collaboration with oncology
   consultation.
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   FAMILY MEETING
   [**2107-3-30**] 5p
   Met with Mr. [**Name (NI) 375**]
 wife and children to discuss his course and
   illness.  He remains critically ill, on ventilatory support and
   vasopressors.  In addition to his acute illness, he also has a very
   limited oncologic prognosis.  His wife and children indicate that he
   would not want prolonged life support, and they request DNR status in
   the case of a pulseless arrest.  We will proceed otherwise with
   aggressive care, and re-evaluate in a few days time about whether he is
   improving or not.
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) **], MD
   on:[**2107-4-1**] 03:53 PM ------

2107-03-30 11:24:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
 PRESEP CATHETER - START [**2107-3-30**] 12:09 AM
 ARTERIAL LINE - START [**2107-3-30**] 12:10 AM
 SPUTUM CULTURE - At [**2107-3-30**] 01:54 AM
 URINE CULTURE - At [**2107-3-30**] 01:54 AM
 BLOOD CULTURED - At [**2107-3-30**] 04:42 AM
 BLOOD CULTURED - At [**2107-3-30**] 05:00 AM
   Resburicase given
   IVFs provided
   Vent settings manipulated to lower tidal volumes
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2107-3-30**] 02:20 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Phenylephrine - 4 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-3-30**] 11:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.1
C (104.2
   Tcurrent: 37.1
C (98.8
   HR: 123 (119 - 129) bpm
   BP: 108/51(69) {99/47(65) - 113/53(72)} mmHg
   RR: 27 (19 - 27) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
    CVP: 16 (14 - 357)mmHg
   Total In:
                                                                      6 mL
                                                                  8,086 mL
   PO:
   TF:
   IVF:
                                                                      6 mL
                                                                  2,056 mL
   Blood products:
   Total out:
                                                                    630 mL
                                                                    440 mL
   Urine:
                                                                    130 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -624 mL
                                                                  7,646 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: Hemodynamic Instability
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.33/37/87.[**Numeric Identifier 181**]/19/-5
   Ve: 15.8 L/min
   PaO2 / FiO2: 147
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: small sluggish but reactive pupuils
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic),
   holosystolic, greatest RUSB, also w/ ? rub LLSB
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: bilat posteriorly)
   Abdominal: Soft, Non-tender, Distended, No(t) Tender: , +
   hepatosplenomegaly
   Extremities: Right: 1+, Left: 1+, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   27 K/uL
   9.9 g/dL
   279 mg/dL
   3.3 mg/dL
   19 mEq/L
   5.3 mEq/L
   104 mg/dL
   106 mEq/L
   139 mEq/L
   28.9 %
   92.9 K/uL
        [image002.jpg]
                             [**2107-3-29**]  09:08 PM
                             [**2107-3-30**]  01:36 AM
                             [**2107-3-30**]  02:05 AM
                             [**2107-3-30**]  04:56 AM
                             [**2107-3-30**]  05:30 AM
   WBC
   95.4
   92.9
   Hct
   29.9
   28.9
   Plt
   28
   27
   Cr
   3.2
   3.3
   TropT
   0.43
   TCO2
   21
   20
   21
   Glucose
   189
   279
   Other labs: PT / PTT / INR:23.0/50.0/2.2, CK / CKMB /
   Troponin-T:82/16/0.43, ALT / AST:79/87, Alk Phos / T Bili:185/1.2,
   Differential-Neuts:22.0 %, Band:4.0 %, Lymph:5.0 %, Mono:14.0 %,
   Eos:0.0 %, Fibrinogen:352 mg/dL, Lactic Acid:2.3 mmol/L, LDH:1379 IU/L,
   Ca++:7.6 mg/dL, Mg++:2.7 mg/dL, PO4:6.6 mg/dL
   Assessment and Plan
   72 yo male w/ secondary AML, now w/ TRALI vs tumor lysis syndrome vs
   septic shock.
   # Hypoxemic resp failure
   DDx: CHF / TACO vs ARDS vs TRALI vs Leukostasis.
   For CHF will assess ECHO today, esp in light of CEs trending up.
   Cont ARDS protocol MV w/ emphasis on low TV.
   Decrease FiO2 to 50%, Pressure support trial possibly later today
   VAP prevention
   Cont empiric coverage w/ vanc / ceftazadime.  Add levofloxacin for
   atypicals.
   # SHOCK
   DDx cardiogenic w/ new CE leak, vs NSTEMI.  Septic shock also.  Does
   not appear to be hypovolemic.
   Sepsis
 PNA vs transfusion related infection
   Cont broad spectrum abx w/ ceftazadime, levo, vanco
   # Tumor lysis
   Cont hydration, monitor uric acid.
   s/p uricase inhibitor.
   Follow w/ onc reccs
   # Renal failure
   Renal consult
   Likely [**2-5**] uric acid nephropathy.  Cont iv hydration, alkalinize urine,
   treat hyperuricemia.
   Will need to check manual urine for casts, micro.
   # DIC
   Plt goal 10-20k.
   Follow FDP, hapto, fibrinogen, INR q 4 hrs.
   Currently w/ some elevated markers for DIC, however no shistos on smear
   yesterday.  Trend.
   # LFTs
   Mild transaminitis.  ? etiol.
   Tumor infiltrate of liver, w/ hepatomegaly?
   Will hold on RUQ us and trend, esp given non-cholestatic picture.
   # FEN
   Replete lyts prn
   Npo currently.
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   Presep Catheter - [**2107-3-30**] 12:09 AM
   18 Gauge - [**2107-3-30**] 12:09 AM
   20 Gauge - [**2107-3-30**] 12:09 AM
   Arterial Line - [**2107-3-30**] 12:10 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: [**Hospital Unit Name **]

2107-03-31 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANS thoracic ECHO - At [**2107-3-30**] 10:17 AM
 BLOOD CULTURED - At [**2107-3-30**] 05:17 PM
   to replace earlier speciemen sent w/o proper label
 FEVER - 104.2
F - [**2107-3-30**] 07:00 AM
   - ECHO : No evidence of endocarditis or abscess seen. Dilated,
   hypokinetic right ventricle with pressure/volume overload. Mild mitral
   regurgitation. moderate aortic valve stenosis (area 1.0-1.2cm2), EF
   50-55%,
   - FiO2 decreased to 50% in AM with ABG 7.24/47/103 then FiO2 decreased
   to 40%
   - Urine sediment: bland (per Renal)
   - renal recs: avoid IR, give bicarb boluses after NS.
   - started on insulin Gtt
   - TRALI workup being sent per blood bank, and blood and platelets given
   to him will be rechecked.
   - Off pressors since  1pm, readded temporarily overnight from 9pm to
   1am.
   - patient doing well on AC, switched to Pressues support [**5-9**], 40%. Gas
   on this in the AM 7.37/43/74/26.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2107-3-30**] 02:20 AM
   Levofloxacin - [**2107-3-30**] 04:15 PM
   Ceftazidime - [**2107-3-30**] 08:15 PM
   Infusions:
   Insulin - Regular - 1 units/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2107-3-30**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-3-31**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.1
C (104.2
   Tcurrent: 36.2
C (97.2
   HR: 102 (86 - 129) bpm
   BP: 112/45(67) {89/42(58) - 119/55(75)} mmHg
   RR: 20 (16 - 26) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
    CVP: 11 (11 - 272)mmHg
   Total In:
                                                                 11,064 mL
                                                                    129 mL
   PO:
   TF:
   IVF:
                                                                  5,034 mL
                                                                    129 mL
   Blood products:
   Total out:
                                                                    963 mL
                                                                    280 mL
   Urine:
                                                                    963 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 10,101 mL
                                                                   -151 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 430 (430 - 430) mL
   Vt (Spontaneous): 570 (570 - 570) mL
   PS : 5 cmH2O
   RR (Set): 22
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 36
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: 7.37/43/74/24/0
   Ve: 8.3 L/min
   PaO2 / FiO2: 185
   Physical Examination
   General: sedated intubated.
   HEENT: PERRL
   Neck: Left sided IJ. JVP not appreciated.
   Pulmonary: Lungs scattered rhonchi anteriorly.
   Cardiac: RRR, nl. S1S2, + holosytolic murmur RUSB, separate systolic
   crescendo murmur rt sternal border and left sternal border
   Abdomen: soft, NT/ND, normoactive bowel sounds, + hepato-splenomegaly
   Extremities: 4+ lower extremity edema.
   Skin: no rashes or lesions noted.
   Neurologic:  sedated
   Labs / Radiology
   12 K/uL
   9.0 g/dL
   87 mg/dL
   3.0 mg/dL
   24 mEq/L
   4.5 mEq/L
   116 mg/dL
   106 mEq/L
   141 mEq/L
   26.4 %
   84.4 K/uL
        [image002.jpg]
                             [**2107-3-30**]  04:56 AM
                             [**2107-3-30**]  05:30 AM
                             [**2107-3-30**]  10:22 AM
                             [**2107-3-30**]  01:13 PM
                             [**2107-3-30**]  04:26 PM
                             [**2107-3-30**]  09:12 PM
                             [**2107-3-30**]  09:28 PM
                             [**2107-3-31**]  01:30 AM
                             [**2107-3-31**]  04:50 AM
                             [**2107-3-31**]  05:05 AM
   WBC
   92.9
   84.4
   Hct
   28.9
   26.4
   Plt
   27
   12
   Cr
   3.3
   3.3
   3.2
   3.2
   3.1
   3.0
   TropT
   0.43
   TCO2
   21
   23
   26
   26
   Glucose
   279
   320
   196
   98
   80
   87
   Other labs: PT / PTT / INR:23.0/50.0/2.2, CK / CKMB /
   Troponin-T:82/16/0.43, ALT / AST:79/87, Alk Phos / T Bili:185/1.2,
   Differential-Neuts:22.0 %, Band:4.0 %, Lymph:5.0 %, Mono:6.0 %, Eos:0.0
   %, Fibrinogen:377 mg/dL, Lactic Acid:3.4 mmol/L, LDH:1244 IU/L,
   Ca++:7.6 mg/dL, Mg++:2.8 mg/dL, PO4:6.8 mg/dL
   Uric acid 16 -> 9
   Assessment and Plan
   72 yo male w/ secondary AML, now w/ TRALI vs septic shock.
   # Hypoxemic resp failure:
   DDx initially CHF / TACO vs ARDS vs TRALI vs Leukostasis. Now
   considering TACO versus TRALI given rapid resolution of respiratory
   failure. Imaging not typical for ARDS.  Patient has been tolerating
   pressure support trial all morning. Echo yesterday with hypokinesis
   - wean sedation. When awake, try spontaneous breathing trial and
   extubate of tolerates
   -  continue empiric coverage with Vanc. Ceftazadime and levofloxacin
   day 3 for all (day [**3-29**])
   - also considering PE, but lower on differential, will hold of on
   LENIs, patient poor candidate for CTA given renal failure, and poor
   # SHOCK
   DDx cardiogenic with NSTEMI,  Septic shock also.
     Sepsis
 PNA vs transfusion related infection
   - Cont broad spectrum abx w/ ceftazadime, levo, vanco
   - patient with good urine outputs of 30-50cc/hour yesterday, continue
   with this goal
   - goal CVP >14
   - patient now weaned off pressors.
   - NSTEMI: once patient stable off vent and normotensive, consider
   treating with bblocker given history of 3VD and CABG, now with troponin
   leak in setting of fluid overload.
   # Tumor lysis: unclear etiology, but possible given leukocytosis. P, K,
   Creatine stable. Uric acid trending down.
   - hold on hydration, monitor uric acid.
   - s/p uricase inhibitor.
   - Follow w/ onc reccs
   # Renal failure:
   Renal consult appreciated
   Likely [**2-5**] uric acid nephropathy.  Improving slowly, urine bland per
   renal
   Will need to check manual urine for casts, micro
   # DIC
   Plt goal 10-20k.
   Follow FDP, hapto, fibrinogen, INR q 4 hrs.
 stable yesterday, now
   can follow [**Hospital1 7**]
   Currently w/ some elevated markers for DIC, however no shistos on smear
   yesterday.  Trend.
   # LFTs
   Mild transaminitis.  ? etiol.
   Tumor infiltrate of liver, w/ hepatomegaly?
   Will hold on RUQ us and trend, esp given non-cholestatic picture.
   # FEN
   Replete lyts prn
   Npo currently.
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   Presep Catheter - [**2107-3-30**] 12:09 AM
   18 Gauge - [**2107-3-30**] 12:09 AM
   20 Gauge - [**2107-3-30**] 12:09 AM
   Arterial Line - [**2107-3-30**] 12:10 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: famotadine
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication: Family meeting held  Comments: yesterday. Will meet
   again today. Patient much improved, can likely be extubated today.
   Code status: Full code
   Disposition:should be extubated today

2107-03-31 10:03:00 Physician Attending Progress Note
Chief Complaint: respiratory failure and shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Off pressors as of 1 a.m.
 TRANS ESOPHAGEAL ECHO - At [**2107-3-30**] 10:17 AM
   --> moderate AS
   --> mild LV regional systolic dysfunction but overall preserved LVEF
   --> mild MR
   --> mild est PHTN
   --> moderately dilated RV with mild RV free wall HK
   --> moderate TR
   --> no vegetations seen
 FEVER - 104.2
F - [**2107-3-30**] 07:00 AM
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2107-3-30**] 02:20 AM
   Levofloxacin - [**2107-3-30**] 04:15 PM
   Ceftazidime - [**2107-3-30**] 08:15 PM
   Infusions:
   Insulin - Regular - 1.3 units/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2107-3-30**] 02:00 PM
   Other medications:
   vanco, ceftaz, H2B, levoflox, insulin, midaz
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-3-31**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 36.8
C (98.2
   HR: 105 (86 - 107) bpm
   BP: 109/48(69) {89/42(58) - 119/55(75)} mmHg
   RR: 23 (16 - 23) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
   CVP: 11 (11 - 272)mmHg
   Total In:
                                                                 11,064 mL
                                                                    167 mL
   PO:
   TF:
   IVF:
                                                                  5,034 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                    963 mL
                                                                    615 mL
   Urine:
                                                                    963 mL
                                                                    615 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 10,101 mL
                                                                   -448 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 430 (430 - 430) mL
   Vt (Spontaneous): 515 (515 - 570) mL
   PS : 5 cmH2O
   RR (Set): 22
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 36
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   SpO2: 96%
   ABG: 7.37/43/74/24/0
   Ve: 11.6 L/min
   PaO2 / FiO2: 185
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   decreased)
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Non -purposeful,
   Tone: Normal
   Labs / Radiology
   9.0 g/dL
   12 K/uL
   87 mg/dL
   3.0 mg/dL
   24 mEq/L
   4.5 mEq/L
   116 mg/dL
   106 mEq/L
   141 mEq/L
   26.4 %
   84.4 K/uL
        [image002.jpg]
                             [**2107-3-30**]  04:56 AM
                             [**2107-3-30**]  05:30 AM
                             [**2107-3-30**]  10:22 AM
                             [**2107-3-30**]  01:13 PM
                             [**2107-3-30**]  04:26 PM
                             [**2107-3-30**]  09:12 PM
                             [**2107-3-30**]  09:28 PM
                             [**2107-3-31**]  01:30 AM
                             [**2107-3-31**]  04:50 AM
                             [**2107-3-31**]  05:05 AM
   WBC
   92.9
   84.4
   Hct
   28.9
   26.4
   Plt
   27
   12
   Cr
   3.3
   3.3
   3.2
   3.2
   3.1
   3.0
   TropT
   0.43
   TCO2
   21
   23
   26
   26
   Glucose
   279
   320
   196
   98
   80
   87
   Other labs: PT / PTT / INR:23.0/50.0/2.2, CK / CKMB /
   Troponin-T:82/16/0.43, ALT / AST:79/87, Alk Phos / T Bili:185/1.2,
   Differential-Neuts:22.0 %, Band:4.0 %, Lymph:5.0 %, Mono:6.0 %, Eos:0.0
   %, Fibrinogen:377 mg/dL, Lactic Acid:3.4 mmol/L, LDH:1244 IU/L,
   Ca++:7.6 mg/dL, Mg++:2.8 mg/dL, PO4:6.8 mg/dL
   Assessment and Plan
   72 y/o man with secondary AML presented with shock, respiratory
   failure, acute renal failure, and likely tumor lysis syndrome following
   trasfusions at [**Hospital1 358**].  He has now improved substantially.
 ACUTE RESPIRATORY FAILURE
   - hold sedation and pursue formal SBT
   - if passes and wakes up
 trial of extubation
   - differential includes [**Doctor Last Name 11**], TRALI, TACO, and pneumonia (less likely
   but not excluded)
   - TRALI and acute diastolic CHF are probably most likely
   - PE unlikely given improvement without therapy and thrombocytopenia
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   - heme/onc consult appreciated
   - no acute therapy indicated at this time
 SHOCK
   - resolved
   - cover empirically for pneumonia
 FEVER
   - follow cultures
   - if further LFT elevation, RUQ ultrasound
 NSTEMI
   - most likely related to demand or some leukostasis
   - echo suggests that there may have been some infarct rather than just
   diffuse demand; however, overall function is preserved
   - not eligible for aspirin given platelets.  Can consider beta blocker
   once off pressors for a day or two
 TUMOR LYSIS SYNDROME
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   - heme/onc consult and renal consult appreciated
   - hold fluids since he seems to have adequate volume on board at
   present
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2107-3-30**] 12:09 AM
   18 Gauge - [**2107-3-30**] 12:09 AM
   20 Gauge - [**2107-3-30**] 12:09 AM
   Arterial Line - [**2107-3-30**] 12:10 AM
   Prophylaxis:
   DVT: Boots(thrombocytopenia)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 min
   Patient is critically ill

2107-04-01 06:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2107-3-30**] 02:20 AM
   Ceftazidime - [**2107-3-30**] 08:15 PM
   Levofloxacin - [**2107-3-31**] 05:07 PM
   Ceftriaxone - [**2107-3-31**] 09:06 PM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2107-4-1**] 12:45 AM
   Midazolam (Versed) - [**2107-4-1**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-4-1**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.3
C (97.4
   HR: 99 (99 - 122) bpm
   BP: 111/52(73) {104/45(65) - 142/68(94)} mmHg
   RR: 17 (14 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
    CVP: 13 (8 - 16)mmHg
   Total In:
                                                                    990 mL
                                                                    632 mL
   PO:
   TF:
   IVF:
                                                                    529 mL
                                                                     67 mL
   Blood products:
                                                                    216 mL
   Total out:
                                                                  2,650 mL
                                                                    450 mL
   Urine:
                                                                  2,650 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,660 mL
                                                                    182 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 359 (359 - 600) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 25
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.35/45/80.[**Numeric Identifier 176**]/24/0
   Ve: 9.8 L/min
   PaO2 / FiO2: 200
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   40 K/uL
   8.5 g/dL
   138 mg/dL
   2.2 mg/dL
   24 mEq/L
   3.8 mEq/L
   95 mg/dL
   111 mEq/L
   145 mEq/L
   25.2 %
   74.2 K/uL
        [image002.jpg]
                             [**2107-3-30**]  09:28 PM
                             [**2107-3-31**]  01:30 AM
                             [**2107-3-31**]  04:50 AM
                             [**2107-3-31**]  05:05 AM
                             [**2107-3-31**]  03:03 PM
                             [**2107-3-31**]  03:20 PM
                             [**2107-3-31**]  07:48 PM
                             [**2107-4-1**]  01:17 AM
                             [**2107-4-1**]  04:02 AM
                             [**2107-4-1**]  04:59 AM
   WBC
   84.4
   74.2
   Hct
   26.4
   25.2
   Plt
   12
   43
   40
   Cr
   3.1
   3.0
   2.5
   2.2
   TropT
   0.60
   0.57
   0.55
   TCO2
   26
   26
   28
   28
   26
   Glucose
   80
   87
   86
   126
   138
   Other labs: PT / PTT / INR:21.5/40.8/2.0, CK / CKMB /
   Troponin-T:65/9/0.55, ALT / AST:79/87, Alk Phos / T Bili:185/1.2,
   Differential-Neuts:22.0 %, Band:4.0 %, Lymph:5.0 %, Mono:6.0 %, Eos:0.0
   %, Fibrinogen:377 mg/dL, Lactic Acid:3.4 mmol/L, LDH:1154 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.9 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   72 yo male w/ secondary AML, now w/ TRALI vs septic shock.
   # Hypoxemic resp failure:
   DDx initially CHF / TACO vs ARDS vs TRALI vs Leukostasis. Now
   considering TACO versus TRALI given rapid resolution of respiratory
   failure. Imaging not typical for ARDS.  Patient has been tolerating
   pressure support trial all morning. Echo yesterday with hypokinesis
   - wean sedation. When awake, try spontaneous breathing trial and
   extubate of tolerates
   -  continue empiric coverage with Vanc. Ceftazadime and levofloxacin
   day 3 for all (day [**3-29**])
   - also considering PE, but lower on differential, will hold of on
   LENIs, patient poor candidate for CTA given renal failure, and poor
   # SHOCK
   DDx cardiogenic with NSTEMI,  Septic shock also.
     Sepsis
 PNA vs transfusion related infection
   - Cont broad spectrum abx w/ ceftazadime, levo, vanco
   - patient with good urine outputs of 30-50cc/hour yesterday, continue
   with this goal
   - goal CVP >14
   - patient now weaned off pressors.
   - NSTEMI: once patient stable off vent and normotensive, consider
   treating with bblocker given history of 3VD and CABG, now with troponin
   leak in setting of fluid overload.
   # Tumor lysis: unclear etiology, but possible given leukocytosis. P, K,
   Creatine stable. Uric acid trending down.
   - hold on hydration, monitor uric acid.
   - s/p uricase inhibitor.
   - Follow w/ onc reccs
   # Renal failure:
   Renal consult appreciated
   Likely [**2-5**] uric acid nephropathy.  Improving slowly, urine bland per
   renal
   Will need to check manual urine for casts, micro
   # DIC
   Plt goal 10-20k.
   Follow FDP, hapto, fibrinogen, INR q 4 hrs.
 stable yesterday, now
   can follow [**Hospital1 7**]
   Currently w/ some elevated markers for DIC, however no shistos on smear
   yesterday.  Trend.
   # LFTs
   Mild transaminitis.  ? etiol.
   Tumor infiltrate of liver, w/ hepatomegaly?
   Will hold on RUQ us and trend, esp given non-cholestatic picture.
   # FEN
   Replete lyts prn
   Npo currently.
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   Presep Catheter - [**2107-3-30**] 12:09 AM
   18 Gauge - [**2107-3-30**] 12:09 AM
   20 Gauge - [**2107-3-30**] 12:09 AM
   Arterial Line - [**2107-3-30**] 12:10 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: famotadine
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication: Family meeting held  Comments: yesterday. Will meet
   again today. Patient much improved, can likely be extubated today.
   Code status: Full code
   Disposition:should be extubated today
   ICU Care
   Nutrition:
   Glycemic Control:  sq insulin
   Lines:
   Presep Catheter - [**2107-3-30**] 12:09 AM
   18 Gauge - [**2107-3-30**] 12:09 AM
   20 Gauge - [**2107-3-30**] 12:09 AM
   Arterial Line - [**2107-3-30**] 12:10 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: famotidine
   VAP:  chlorhex, hob
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-04-01 11:04:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Slow waking up; some question about not moving arms --> CT head.
   More awake this morning, moving all four extremities
   History obtained from Medical records
   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2107-3-30**] 08:15 PM
   Levofloxacin - [**2107-3-31**] 05:07 PM
   Ceftriaxone - [**2107-3-31**] 09:06 PM
   Vancomycin - [**2107-4-1**] 08:17 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2107-4-1**] 12:45 AM
   Midazolam (Versed) - [**2107-4-1**] 01:30 AM
   Other medications:
   As per [**Month (only) **] (reviewed on rounds)
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-4-1**] 11:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.8
C (98.2
   HR: 104 (99 - 122) bpm
   BP: 131/56(82) {105/48(67) - 142/68(95)} mmHg
   RR: 16 (14 - 25) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
   CVP: 13 (8 - 16)mmHg
   Total In:
                                                                    990 mL
                                                                    935 mL
   PO:
   TF:
   IVF:
                                                                    529 mL
                                                                    310 mL
   Blood products:
                                                                    216 mL
   Total out:
                                                                  2,650 mL
                                                                  1,170 mL
   Urine:
                                                                  2,650 mL
                                                                  1,170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,660 mL
                                                                   -235 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 725 (359 - 725) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 25
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.35/45/80.[**Numeric Identifier 176**]/24/0
   Ve: 12.1 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal, Intermittently follows commands
   Labs / Radiology
   8.5 g/dL
   20 K/uL
   138 mg/dL
   2.2 mg/dL
   24 mEq/L
   3.8 mEq/L
   95 mg/dL
   111 mEq/L
   145 mEq/L
   25.2 %
   74.2 K/uL
        [image002.jpg]
                             [**2107-3-30**]  09:28 PM
                             [**2107-3-31**]  01:30 AM
                             [**2107-3-31**]  04:50 AM
                             [**2107-3-31**]  05:05 AM
                             [**2107-3-31**]  03:03 PM
                             [**2107-3-31**]  03:20 PM
                             [**2107-3-31**]  07:48 PM
                             [**2107-4-1**]  01:17 AM
                             [**2107-4-1**]  04:02 AM
                             [**2107-4-1**]  04:59 AM
   WBC
   84.4
   74.2
   Hct
   26.4
   25.2
   Plt
   12
   43
   40
   20
   Cr
   3.1
   3.0
   2.5
   2.2
   TropT
   0.60
   0.57
   0.55
   TCO2
   26
   26
   28
   28
   26
   Glucose
   80
   87
   86
   126
   138
   Other labs: PT / PTT / INR:21.5/40.8/2.0, CK / CKMB /
   Troponin-T:65/9/0.55, ALT / AST:79/87, Alk Phos / T Bili:185/1.2,
   Differential-Neuts:22.0 %, Band:4.0 %, Lymph:5.0 %, Mono:6.0 %, Eos:0.0
   %, Fibrinogen:377 mg/dL, Lactic Acid:3.4 mmol/L, LDH:1154 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.9 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   72 y/o man with secondary AML presented with shock, respiratory
   failure, acute renal failure, and likely tumor lysis syndrome following
   trasfusions at [**Hospital1 358**].  He has now improved substantially.
 ACUTE RESPIRATORY FAILURE
   - differential includes [**Doctor Last Name 11**], TRALI, TACO, and pneumonia (less likely
   but not excluded)
   - TRALI and acute diastolic CHF are probably most likely
   - PE unlikely given improvement without therapy and thrombocytopenia
   - extubation trial today
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   - heme/onc consult appreciated
   - no acute therapy indicated at this time
 SHOCK
   - resolved. Etiology remains unclear.
   - covering empirically for pneumonia
 FEVER
   - follow cultures
   - if further LFT elevation, RUQ ultrasound
 NSTEMI
   - most likely related to demand or some leukostasis
   - echo with regional wall motion abnormalities suggests that there may
   have been some infarct rather than just diffuse demand; however,
   overall function is preserved
   - not eligible for aspirin given platelets.  Can consider beta blocker
   once off pressors for a day or two
 TUMOR LYSIS SYNDROME
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   - heme/onc consult and renal consult appreciated
   - seems to be past the major time of risk
   ICU Care
   Nutrition: NPO for now given extubation plans
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Presep Catheter - [**2107-3-30**] 12:09 AM
   18 Gauge - [**2107-3-30**] 12:09 AM
   20 Gauge - [**2107-3-30**] 12:09 AM
   Arterial Line - [**2107-3-30**] 12:10 AM
   Prophylaxis:
   DVT: Boots(No heparin given thrombocytopenis)
   Stress ulcer: acid suppression
   VAP: CHG
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition :ICU
   Total time spent: 35 min
   Patient is critically ill

2107-04-01 13:33:00 Physician Resident Progress Note
Chief Complaint: Hypoxia
   24 Hour Events:
   sedation weaned
   vent weaned to PS 5/5
   extubated this morning
   neurologic exam - > was not moving UE's as well as legs, so CT head /
   c-spine to seek out source of compression, weakness, bleeding; CTH
   without bleed
   started w/ beta blocker regarding NSTEMI
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2107-3-30**] 08:15 PM
   Levofloxacin - [**2107-3-31**] 05:07 PM
   Ceftriaxone - [**2107-3-31**] 09:06 PM
   Vancomycin - [**2107-4-1**] 08:17 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2107-4-1**] 12:45 AM
   Midazolam (Versed) - [**2107-4-1**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-4-1**] 01:20 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98.1
   HR: 105 (99 - 122) bpm
   BP: 118/51(75) {109/48(69) - 142/68(95)} mmHg
   RR: 15 (14 - 25) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
    CVP: 13 (8 - 16)mmHg
   Total In:
                                                                    990 mL
                                                                    959 mL
   PO:
   TF:
   IVF:
                                                                    529 mL
                                                                    334 mL
   Blood products:
                                                                    216 mL
   Total out:
                                                                  2,650 mL
                                                                  1,390 mL
   Urine:
                                                                  2,650 mL
                                                                  1,390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,660 mL
                                                                   -431 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 548 (359 - 725) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 25
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.35/45/80.[**Numeric Identifier 176**]/24/0
   Ve: 15.7 L/min
   PaO2 / FiO2: 200
   Physical Examination
   Gen: somnolent, unable to follow commands
   Heent: et tube in place
   Pul: cta bilat w/ diffuse rhonchi
   Cor; nl s1s2; [**3-10**] holosystolic murmur over llsb, harsh; [**3-10**] rusb,
   radiate to carotids.  [**2-9**] axillary blowing murmur.
   Abd; soft, nt / nd. Nabs
   Extreme; 2+ pitting edema.
   Neuron: not withdrawing upper extremeties to pain.  Has been witnessed
   to have all 4 extrem moving spontaneously.  Will open eyes.
   Labs / Radiology
   20 K/uL
   8.5 g/dL
   138 mg/dL
   2.2 mg/dL
   24 mEq/L
   3.8 mEq/L
   95 mg/dL
   111 mEq/L
   145 mEq/L
   25.2 %
   74.2 K/uL
        [image002.jpg]
                             [**2107-3-30**]  09:28 PM
                             [**2107-3-31**]  01:30 AM
                             [**2107-3-31**]  04:50 AM
                             [**2107-3-31**]  05:05 AM
                             [**2107-3-31**]  03:03 PM
                             [**2107-3-31**]  03:20 PM
                             [**2107-3-31**]  07:48 PM
                             [**2107-4-1**]  01:17 AM
                             [**2107-4-1**]  04:02 AM
                             [**2107-4-1**]  04:59 AM
   WBC
   84.4
   74.2
   Hct
   26.4
   25.2
   Plt
   12
   43
   40
   20
   Cr
   3.1
   3.0
   2.5
   2.2
   TropT
   0.60
   0.57
   0.55
   TCO2
   26
   26
   28
   28
   26
   Glucose
   80
   87
   86
   126
   138
   Other labs: PT / PTT / INR:21.5/40.8/2.0, CK / CKMB /
   Troponin-T:65/9/0.55, ALT / AST:79/87, Alk Phos / T Bili:185/1.2,
   Differential-Neuts:22.0 %, Band:4.0 %, Lymph:5.0 %, Mono:6.0 %, Eos:0.0
   %, Fibrinogen:377 mg/dL, Lactic Acid:3.4 mmol/L, LDH:1154 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.9 mg/dL, PO4:5.1 mg/dL
   Fluid analysis / Other labs: omr reviewed
   Imaging: CT head
   1.  No acute intracranial pathology identified.  Please note MRI is
   more
   sensitive for evaluation of ischemia or lymphomatous involvement.
   2.  Chronic appearing sinus changes with suggestive element of acute
   sinusitis
   involving the left maxillary sinusitis.  This should be correlated with
   clinical exam.
   CT spine
   1.  No acute pathology to explain the patient's upper extremity
   neurologic
   findings.  Please note, MRI is more sensitive for evaluation of cord
   pathology.
   2.  Right apical ground-glass opacity is nonspecific and may represent
   underlying infection or alveolar edema.
   Assessment and Plan
   72 yo male w/ hypoxemic resp failure, w/ secondary AML.
   # Hypox Res Failure
   Differential still wide: vol overload (TACO) vs TRALI post
   transfusion.  Also, w/ gram + cocci in sputum, concern for infectious
   etiology.  Leukostasis and ARDS less likely.  Now extubated and doing
   well.  Cont titrate O2.  Re-intubation not likely to add length or
   quality of life.
   TACO / Overload -> post auto-diuresis.  Will cont to provide supportive
   care.
   TRALI
 supportive care
   Bacterial Pneumonia -> cont ceftazadime, levofloxacin, vancomycin,
   total 8 days.  Currently day [**4-12**].
   # CARDS
   **NSTEMI
   CK / Trop flat / trending down.  Likely due to hypotension and other
   cardiopulmonary stressors.  Will not give antiplatelet given
   thrombocytopenia and risk for bleeding.
   -          metoprolol 25 mg [**Hospital1 7**]
   # Mental status
   Continuing to wake up s/p sedatives.  Will cont to follow.  Now
   protecting airway.  Cont  hold CNS suppressing meds.
   # AML
   High tumor burden.  Possible blood transfusions and urea for
   palliation.
   When taking Pos, can start allopurinol 100 mg daily to prevent urate
   nephropathy.
   # ID
   As above,
   Treat pneumonia empirically, w/ 8 d ceftaz / vanc / levoflox.
   SINUSITIS
   Will discuss prior sinusitis treatment w/ family.
   Afrin / saline washes
   # TRALI / Transfusion reaction?
   Will continue to follow culture data from OSH regarding possibly
   contaminated blood / platelets.
   # ARF
   Appreciate renal input.
   Likely Pre renal.
   Will keep i/o -500 today, without too much active management (hopefully
   auto-diurese).
   # Plan of Care
   Wife mentioned desires for home / hospice.
   Palliative care consult.
   ICU Care
   Nutrition:
   Npo until more awake.
   Glycemic Control:
   Lines:
   Presep Catheter - [**2107-3-30**] 12:09 AM
   18 Gauge - [**2107-3-30**] 12:09 AM
   20 Gauge - [**2107-3-30**] 12:09 AM
   Arterial Line - [**2107-3-30**] 12:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2107-04-02 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - extuated at 11am yesterday
   need to follow up OSH blood bank for infection
   renal- follow na w/ auto / uric acid diuresis
   changed levoflox to renal dosing
   vanc needs to be done by level
   afrin / nasal washes for sinusitis by ct scan
   bmt - allopurinol, qod cbc w/ diff, d/c to bmt service.c
   spoke w/ wife about re-intubation...if for clearly reversible causes
   can intubate for short time period.
   Na increasing, given 1L D5W for osmotic diuresis.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2107-3-31**] 05:07 PM
   Ceftriaxone - [**2107-3-31**] 09:06 PM
   Vancomycin - [**2107-4-1**] 08:17 AM
   Ceftazidime - [**2107-4-1**] 08:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2107-4-1**] 02:10 PM
   Metoprolol - [**2107-4-2**] 12:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-4-2**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (96.9
   HR: 104 (101 - 113) bpm
   BP: 144/65(96) {118/51(75) - 158/75(106)} mmHg
   RR: 23 (15 - 32) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  1,227 mL
                                                                    705 mL
   PO:
             TF:
   IVF:
                                                                    602 mL
                                                                    705 mL
   Blood products:
   Total out:
                                                                  2,630 mL
                                                                    670 mL
   Urine:
                                                                  2,630 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,403 mL
                                                                     35 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 548 (548 - 725) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.43/41/89.[**Numeric Identifier 126**]/28/2
   Ve: 15.7 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: shovel mask
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic),
   holosystolic murmur at apex. crescendo murmur at RSB
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   anteriorly)
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, response to sound, not command
   Labs / Radiology
   13 K/uL
   9.1 g/dL
   241 mg/dL
   1.8 mg/dL
   28 mEq/L
   3.3 mEq/L
   86 mg/dL
   109 mEq/L
   145 mEq/L
   26.9 %
   104.7 K/uL
        [image002.jpg]
                             [**2107-3-31**]  05:05 AM
                             [**2107-3-31**]  03:03 PM
                             [**2107-3-31**]  03:20 PM
                             [**2107-3-31**]  07:48 PM
                             [**2107-4-1**]  01:17 AM
                             [**2107-4-1**]  04:02 AM
                             [**2107-4-1**]  04:59 AM
                             [**2107-4-1**]  02:33 PM
                             [**2107-4-1**]  06:42 PM
                             [**2107-4-2**]  04:12 AM
   WBC
   74.2
   104.7
   Hct
   25.2
   26.9
   Plt
   43
   40
   20
   13
   Cr
   2.5
   2.2
   2.0
   1.8
   TropT
   0.57
   0.55
   TCO2
   26
   28
   28
   26
   28
   Glucose
   86
   126
   138
   196
   241
   Other labs: PT / PTT / INR:21.7/35.6/2.1, CK / CKMB /
   Troponin-T:65/9/0.55, ALT / AST:79/87, Alk Phos / T Bili:185/1.2,
   Differential-Neuts:23.0 %, Band:5.0 %, Lymph:9.0 %, Mono:12.0 %,
   Eos:0.0 %, Fibrinogen:377 mg/dL, Lactic Acid:3.4 mmol/L, LDH:1178 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.9 mg/dL, PO4:3.8 mg/dL
   Imaging: CT C Spine non contrast
   IMPRESSION:
   1.  No acute pathology to explain the patient's upper extremity
   neurologic
   findings.  Please note, MRI is more sensitive for evaluation of cord
   pathology.
   2.  Right apical ground-glass opacity is nonspecific and may represent
   underlying infection or alveolar edema.
   Microbiology: Urine Legionally: negative
   Blood cultures x2: pending
   Urine cultures x2: negative
   Sputum gram stain: gram + cocci in clusters and pairs, Culture: oral
   flora
   Assessment and Plan
   72 yo male w/ secondary AML, now w/ TRALI vs TACO vs septic shock, now
   extubated
   Hypoxemic resp failure:  Patient most likely has CHF/TACO vs TRALI
   given rapid resolution of respiratory status. ECHO did show some
   hypokinesis.  Patient was extubated [**2107-4-1**]
   - patient
s PCO2 this am 45, but pO2 61. Will recheck this PM
   - continue antibiotics for 7 day courses: Vanc and ceftazadine day [**5-11**]
   (day 1 [**3-29**]) and levofloxacin day [**4-11**] (day 1 [**3-30**])
   Altered Mental Status: Patient extubated, but still not very
   interactive, Has been grunting since extubated with not a lot of
   directed speech or gestures. Considering watershed infarct, leukostasis
   given increasing white count (>100), or most likely, sedation is
   weaning slowly given renal function. Patient has been saying
 since
   extubation. Unclear if this is in response to pain. This is unlikely
   since that is all hehas been saying.
   - CT head done 2 days ago within anything acute
   - will f/u with BMT regarding leukostasis
   - will continue to watch as renal function improves and sedation weans.
   SHOCK: Improved/ etiology unclear septic shock possible. Patient off
   pressors for several days, stable
   - continue antibiotics for 7 day courses: Vanc and ceftazadine day [**5-11**]
   (day 1 [**3-29**]) and levofloxacin day [**4-11**] (day 1 [**3-30**])
   - NSTEMI: once patient stable off vent and normotensive, consider
   treating with bblocker given history of 3VD and CABG, now with troponin
   leak in setting of fluid overload.
   Tumor lysis: unclear etiology, but possible given leukocytosis. P, K,
   Creatine stable. Uric acid leveling off
   - will start allopurinol for uric acid per BMT recs
   - s/p uricase inhibitor.
   - onc recs appreciated
   Renal failure: Improving rapidly over last few days.
   Renal consult appreciated
   Likely [**2-5**] uric acid nephropathy.  Improving slowly, urine bland per
   renal
   Will need to check manual urine for casts, micro
   Pain: patient has history of back pain requiring Tylenol and oxyodone
   qHS
   - will try 0.5 mg morphine PRN
   Constipation: patient has not had bowel movement since Tuesday
   - ducolax suppository
   - if no BM with suppository, will try enema
   DIC Ruled out. Plt goal 10 or bleed, will f/u with BMT if platelet goal
   - Follow FDP, hapto, fibrinogen, INR q 4 hrs.
 stable yesterday,  no
   need to continue to follow
   LFTs: Mild transaminitis.  ? etiol.
   Tumor infiltrate of liver, w/ hepatomegaly?
   Will hold on RUQ us and trend, esp given non-cholestatic picture.
   ICU Care
   Nutrition:  NPO
   Glycemic Control:  insulin sliding scale
   Lines:
   Presep Catheter - [**2107-3-30**] 12:09 AM
   Arterial Line - [**2107-3-30**] 12:10 AM
   Prophylaxis:
   DVT:  none, low platelets
   Stress ulcer:  h2  blocker
   VAP:  not intubated
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate), Intubate of reversible condition
   Disposition:

2107-04-02 10:39:00 Physician Attending Progress Note
Chief Complaint: resp distress
   24 Hour Events:
   extubated yest at 11AM
   delirium overnight
   question of pain this AM- moaning not always responsive to family
   BMT wants allopurinol for rising uric acid
                                 History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2107-3-31**] 05:07 PM
   Ceftriaxone - [**2107-3-31**] 09:06 PM
   Vancomycin - [**2107-4-1**] 08:17 AM
   Ceftazidime - [**2107-4-1**] 08:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2107-4-1**] 02:10 PM
   Metoprolol - [**2107-4-2**] 12:02 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-4-2**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (97
   HR: 108 (102 - 113) bpm
   BP: 134/56(84) {118/51(75) - 158/75(106)} mmHg
   RR: 16 (15 - 32) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  1,227 mL
                                                                    795 mL
   PO:
             TF:
   IVF:
                                                                    602 mL
                                                                    795 mL
   Blood products:
   Total out:
                                                                  2,630 mL
                                                                  1,120 mL
   Urine:
                                                                  2,630 mL
                                                                  1,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,403 mL
                                                                   -326 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 548 (548 - 548) mL
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.43/41/89.[**Numeric Identifier 126**]/28/2
   Ve: 15.7 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General Appearance: Thin
   Cardiovascular: RR
   Respiratory / Chest: (Breath Sounds: Wheezes : anteriorly)
   Abd: soft +BS
   Neurologic: Responds tovoice and tactile but with moaning and not
   following commands
   Labs / Radiology
   9.1 g/dL
   13 K/uL
   241 mg/dL
   1.8 mg/dL
   28 mEq/L
   3.3 mEq/L
   86 mg/dL
   109 mEq/L
   145 mEq/L
   26.9 %
   104.7 K/uL
        [image002.jpg]
                             [**2107-3-31**]  05:05 AM
                             [**2107-3-31**]  03:03 PM
                             [**2107-3-31**]  03:20 PM
                             [**2107-3-31**]  07:48 PM
                             [**2107-4-1**]  01:17 AM
                             [**2107-4-1**]  04:02 AM
                             [**2107-4-1**]  04:59 AM
                             [**2107-4-1**]  02:33 PM
                             [**2107-4-1**]  06:42 PM
                             [**2107-4-2**]  04:12 AM
   WBC
   74.2
   104.7
   Hct
   25.2
   26.9
   Plt
   43
   40
   20
   13
   Cr
   2.5
   2.2
   2.0
   1.8
   TropT
   0.57
   0.55
   TCO2
   26
   28
   28
   26
   28
   Glucose
   86
   126
   138
   196
   241
   Other labs: PT / PTT / INR:21.7/35.6/2.1, CK / CKMB /
   Troponin-T:65/9/0.55, ALT / AST:79/87, Alk Phos / T Bili:185/1.2,
   Differential-Neuts:23.0 %, Band:5.0 %, Lymph:9.0 %, Mono:12.0 %,
   Eos:0.0 %, Fibrinogen:377 mg/dL, Lactic Acid:3.4 mmol/L, LDH:1178 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.9 mg/dL, PO4:3.8 mg/dL
   Fluid analysis / Other labs: UA 10.9
   MICRO: sputum o/p flora
   Assessment and Plan
    72 y/o man with secondary AML presented with shock, respiratory
   failure, acute renal failure, and likely tumor lysis syndrome following
   trasfusions at [**Hospital1 358**].  He has now improved substantially.
 ACUTE RESPIRATORY FAILURE
   - differential includes [**Doctor Last Name 11**], TRALI, TACO, and pneumonia (less likely
   but not excluded)
   - TRALI and acute diastolic CHF are probably most likely given rapid
   resolution
   - sucessfully extubated yesterday
   - Mental Status: only opening eyes, moaning, occ answering questions, -
   DDx delayed clearance of medication, last head
   CT after off pressors without evidence for bleed or acute ischemia,
   check ABG to exclude hypercarbia.
   This is a difficult situation but we must treat pain to see if that
   helps with his mental status a bit- he is chronically on narcotics/
   Suspect this will continue to clear through the day, if persiosts will
   need to consider repeat imaging
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   - heme/onc consult appreciated
   - WBC is rising to pver 100K and 42% blasts
 clarify with them
   indications for Rx
   - Allopurinol for tumor lysis
 SHOCK
   - resolved. Etiology remains unclear.
   - covering empirically for pneumonia
 FEVER
   - follow cultures
   - if further LFT elevation, RUQ ultrasound
 NSTEMI
   - most likely related to demand or some leukostasis
   - echo with regional wall motion abnormalities suggests that there may
   have been some infarct rather than just diffuse demand; however,
   overall function is preserved
   - not eligible for aspirin given platelets.  Would add b blocker low
   dose
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   - improving
   ICU Care
   Nutrition: NPO while poor mental status
   Glycemic Control:  SSRI
   Lines: A line (d/c if ABG is OK), get 1 PIV and d/c CVL
   Presep Catheter - [**2107-3-30**] 12:09 AM
   Arterial Line - [**2107-3-30**] 12:10 AM
   Prophylaxis:
   DVT: none due to profound thrombocytopenia
   Stress ulcer: PPI
   VAP: NA
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition : ICU while adressing delirium
   Total time spent: 40

2107-04-03 06:49:00 Physician Resident Progress Note
Chief Complaint: 72M h/o secondary AML, TRALI vs TACO vs septic shock,
   now extubated
   24 Hour Events:
   - abg, not hypercarbic, but somewhat hypoxic (po2 61), recheck was 57,
   put shovel mask on better, and up to 92%
   - started morphine 0.5 mg 2 doses because seemed like might be in pain
   (Oww.. oww)
   - no BM since tuesday. suppository didnt work, will try enema next
   - spiked temp to 100.8 axillary at 4am, blood cultures sent
   - Ectopy --> K 2.9 --> repleted
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2107-3-31**] 05:07 PM
   Ceftriaxone - [**2107-3-31**] 09:06 PM
   Vancomycin - [**2107-4-2**] 02:00 PM
   Ceftazidime - [**2107-4-2**] 07:45 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2107-4-2**] 01:00 PM
   Metoprolol - [**2107-4-3**] 05:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-4-3**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 111 (99 - 120) bpm
   BP: 118/51(75) {114/50(72) - 156/70(105)} mmHg
   RR: 21 (11 - 30) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  1,413 mL
                                                                    175 mL
   PO:
             TF:
   IVF:
                                                                  1,413 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                  2,370 mL
                                                                    500 mL
   Urine:
                                                                  2,370 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -958 mL
                                                                   -325 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 99%
   ABG: 7.46/42/94.[**Numeric Identifier 126**]/27/5
   PaO2 / FiO2: 134
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   17 K/uL
   8.6 g/dL
   138 mg/dL
   1.6 mg/dL
   27 mEq/L
   4.7 mEq/L
   79 mg/dL
   116 mEq/L
   146 mEq/L
   24.8 %
   164.8 K/uL
        [image002.jpg]
                             [**2107-4-1**]  04:02 AM
                             [**2107-4-1**]  04:59 AM
                             [**2107-4-1**]  02:33 PM
                             [**2107-4-1**]  06:42 PM
                             [**2107-4-2**]  04:12 AM
                             [**2107-4-2**]  11:37 AM
                             [**2107-4-2**]  05:19 PM
                             [**2107-4-2**]  08:28 PM
                             [**2107-4-2**]  10:04 PM
                             [**2107-4-3**]  03:22 AM
   WBC
   74.2
   104.7
   164.8
   Hct
   25.2
   26.9
   24.8
   Plt
   20
   13
   17
   Cr
   2.2
   2.0
   1.8
   1.6
   1.6
   TropT
   0.55
   TCO2
   26
   28
   31
   30
   31
   Glucose
   138
   196
   241
   157
   138
   Other labs: PT / PTT / INR:22.5/34.7/2.2, CK / CKMB /
   Troponin-T:65/9/0.55, ALT / AST:79/87, Alk Phos / T Bili:185/1.2,
   Differential-Neuts:23.0 %, Band:5.0 %, Lymph:9.0 %, Mono:12.0 %,
   Eos:0.0 %, Fibrinogen:377 mg/dL, Lactic Acid:3.4 mmol/L, LDH:1232 IU/L,
   Ca++:8.9 mg/dL, Mg++:3.3 mg/dL, PO4:3.2 mg/dL
   Imaging: No new imaging
   Microbiology: [**3-29**] - [**4-3**] Blood cx pending
   [**3-31**]: Legionella negative
   [**Date range (1) 382**]: Urine cx negative
   [**3-30**] sputum cx: OP flora
   Assessment and Plan
   72M h/o secondary AML, TRALI vs TACO vs septic shock, now extubated
   Hypoxemic resp failure:  Originally likely [**2-5**] CHF/TACO vs TRALI given
   rapid resolution of respiratory status. Echo did show some
   hypokinesis.  Extubated [**2107-4-1**]
   - patient
s PCO2 this am 45, but pO2 61. Will recheck this PM
   - continue antibiotics for 7 day courses: Vanc and ceftazadine day [**5-11**]
   (day 1 [**3-29**]) and levofloxacin day [**4-11**] (day 1 [**3-30**])
   Altered Mental Status: Patient extubated, but still not very
   interactive, Has been grunting since extubated with not a lot of
   directed speech or gestures. Considering watershed infarct, leukostasis
   given increasing white count (>100), or most likely, sedation is
   weaning slowly given renal function. Patient has been saying
 since
   extubation. Unclear if this is in response to pain. This is unlikely
   since that is all hehas been saying.
   - CT head done 2 days ago within anything acute
   - will f/u with BMT regarding leukostasis
   - will continue to watch as renal function improves and sedation weans.
   SHOCK: Improved/ etiology unclear septic shock possible. Patient off
   pressors for several days, stable
   - continue antibiotics for 7 day courses: Vanc and ceftazadine day [**5-11**]
   (day 1 [**3-29**]) and levofloxacin day [**4-11**] (day 1 [**3-30**])
   - NSTEMI: once patient stable off vent and normotensive, consider
   treating with bblocker given history of 3VD and CABG, now with troponin
   leak in setting of fluid overload.
   Tumor lysis: unclear etiology, but possible given leukocytosis. P, K,
   Creatine stable. Uric acid leveling off
   - will start allopurinol for uric acid per BMT recs
   - s/p uricase inhibitor.
   - onc recs appreciated
   Renal failure: Improving rapidly over last few days.
   Renal consult appreciated
   Likely [**2-5**] uric acid nephropathy.  Improving slowly, urine bland per
   renal
   Will need to check manual urine for casts, micro
   Pain: patient has history of back pain requiring Tylenol and oxyodone
   qHS
   - will try 0.5 mg morphine PRN
   Constipation: patient has not had bowel movement since Tuesday
   - ducolax suppository
   - if no BM with suppository, will try enema
   DIC Ruled out. Plt goal 10 or bleed, will f/u with BMT if platelet goal
   - Follow FDP, hapto, fibrinogen, INR q 4 hrs.
 stable yesterday,  no
   need to continue to follow
   LFTs: Mild transaminitis.  ? etiol.
   Tumor infiltrate of liver, w/ hepatomegaly?
   Will hold on RUQ us and trend, esp given non-cholestatic picture.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2107-3-30**] 12:09 AM
   Arterial Line - [**2107-3-30**] 12:10 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2107-04-03 09:46:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Confusion and pain s/p extubation, trying low dose Morphine
   Increased O2 req last PM - now on face tent
   T 100.8 - cultured
   24 Hour Events:
 URINE CULTURE - At [**2107-4-3**] 04:21 AM
 BLOOD CULTURED - At [**2107-4-3**] 04:21 AM
   History obtained from Family / Friend
   [**Name (NI) **] unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2107-3-31**] 05:07 PM
   Ceftriaxone - [**2107-3-31**] 09:06 PM
   Ceftazidime - [**2107-4-3**] 08:04 AM
   Vancomycin - [**2107-4-3**] 08:05 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2107-4-2**] 01:00 PM
   Metoprolol - [**2107-4-3**] 05:36 AM
   Other medications:
   Docusate
   SSRI
   Allopurinol
   Lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2107-4-3**] 09:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 119 (99 - 120) bpm
   BP: 130/56(83) {109/46(67) - 156/70(105)} mmHg
   RR: 18 (11 - 30) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  1,413 mL
                                                                    504 mL
   PO:
             TF:
   IVF:
                                                                  1,413 mL
                                                                    504 mL
   Blood products:
   Total out:
                                                                  2,370 mL
                                                                    750 mL
   Urine:
                                                                  2,370 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -958 mL
                                                                   -246 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 99%
   ABG: 7.46/42/94.[**Numeric Identifier 126**]/27/5
   PaO2 / FiO2: 134
   Physical Examination
   General Appearance: Thin, unresponsive, slightly labored breathing
   Cardiovascular: RR
   Respiratory / Chest: poor air movement no wheezes
   Abd: soft +BS
   Neurologic: Responds to tactile (not voice) rare moaning and not
   following commands
   Labs / Radiology
   8.6 g/dL
   17 K/uL
   138 mg/dL
   1.6 mg/dL
   27 mEq/L
   4.7 mEq/L
   79 mg/dL
   116 mEq/L
   146 mEq/L
   24.8 %
   164.8 K/uL
        [image002.jpg]
                             [**2107-4-1**]  04:02 AM
                             [**2107-4-1**]  04:59 AM
                             [**2107-4-1**]  02:33 PM
                             [**2107-4-1**]  06:42 PM
                             [**2107-4-2**]  04:12 AM
                             [**2107-4-2**]  11:37 AM
                             [**2107-4-2**]  05:19 PM
                             [**2107-4-2**]  08:28 PM
                             [**2107-4-2**]  10:04 PM
                             [**2107-4-3**]  03:22 AM
   WBC
   74.2
   104.7
   164.8
   Hct
   25.2
   26.9
   24.8
   Plt
   20
   13
   17
   Cr
   2.2
   2.0
   1.8
   1.6
   1.6
   TropT
   0.55
   TCO2
   26
   28
   31
   30
   31
   Glucose
   138
   196
   241
   157
   138
   Other labs: PT / PTT / INR:22.5/34.7/2.2, CK / CKMB /
   Troponin-T:65/9/0.55, ALT / AST:79/87, Alk Phos / T Bili:185/1.2,
   Differential-Neuts:23.0 %, Band:5.0 %, Lymph:9.0 %, Mono:12.0 %,
   Eos:0.0 %, Fibrinogen:377 mg/dL, Lactic Acid:3.4 mmol/L, LDH:1232 IU/L,
   Ca++:8.9 mg/dL, Mg++:3.3 mg/dL, PO4:3.2 mg/dL
   Microbiology: Blood Pending [**3-29**] through [**4-3**]
   All other cx negative
   Assessment and Plan
    72 y/o man with secondary AML presented with shock, respiratory
   failure, acute renal failure, and likely tumor lysis syndrome following
   trasfusions at [**Hospital1 358**].  We were able to extubate and resp status
   stable but mental status porr and WBC is rapidly rapidly rising
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   - heme/onc consult appreciated. This rapid rise in WBC with blasts is
   extremely concerning today.
   We will initiate family meeting with Dr [**Last Name (STitle) 383**] ourselves and family
   today.
   Not a candidate for pheresis, could consideer Hydrea but overall
   prognosis is very poor
   - Allopurinol for tumor lysis
 ACUTE RESPIRATORY FAILURE
   - differential includes [**Doctor Last Name 11**], TRALI, TACO, and pneumonia (less likely
   but not excluded)
   - TRALI and acute diastolic CHF are probably most likely given rapid
   resolution
   - sucessfully extubated 48 hrs ago
   - Now at risk for leukostasis
   - Mental Status: only opening eyes, moaning, occ answering questions, -
   DDx delayed clearance of medication, last head
   CT after off pressors without evidence for bleed or acute ischemia,
   check ABG to exclude hypercarbia.
   This is a difficult situation but we must treat pain to see if that
   helps with his mental status a bit- he is chronically on narcotics/
   Suspect this will continue to clear through the day, if persiosts will
   need to consider repeat imaging
 SHOCK
   - resolved. Etiology remains unclear.
   - covering empirically for pneumonia
 FEVER
   - follow cultures
   - if further LFT elevation, RUQ ultrasound
 NSTEMI
   - most likely related to demand or some leukostasis
   - echo with regional wall motion abnormalities suggests that there may
   have been some infarct rather than just diffuse demand; however,
   overall function is preserved
   - not eligible for aspirin given platelets.  Would add b blocker low
   dose
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   - improving
   ICU Care
   Nutrition:
   D51/2 NS to start
   Glycemic Control:
   Lines:
   Presep Catheter - [**2107-3-30**] 12:09 AM
   Arterial Line - [**2107-3-30**] 12:10 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP: n/a
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition : ICU pending family meeting to clarify goals of care
   Critically ill
   Total time spent: 50
   ------ Protected Section ------
   Family meeting held x 30 min with BMT attg [**First Name9 (NamePattern2) 384**] [**Doctor Last Name 383**] who
   reviewed grave prognosis with blast crisis and felt a transition to CMO
   was indicated. Family agreed that this fight had been long and hard but
   was now at an end. At this point goal was quality of life and all
   shouldl be done ot minimize suffering. Will we initiate morphine for
   comfort and further discuss with family as afternoon progresses. Many
   family yet to arrive but will be updated as needed.
   ------ Protected Section Addendum Entered By:[**Name (NI) 90**] [**Last Name (NamePattern1) 385**], MD
   on:[**2107-4-3**] 11:30 ------